US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid 3,3,3-Trifluoropropyl Ester
4.0 M HCl in 1,4-dioxane (196 μL, 786 μmol) was added to a solution of (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid ethyl ester (50.0 mg, 98.2 μmol) in 3,3,3-trifluoropropan-1-ol (336 mg, 3.0 mmol), and the resulting mixture was stirred at 70° C. for 3 hours. The mixture was concentrated in vacuo to yield a white solid, which was purified by preparative HPLC (C18 column chromatography using 40-90% MeCN in water with 0.05% TFA) to yield the title compound as a white solid (18 mg, purity 100%). MS m/z [M+H]+ calc'd for C27H24ClF3N4O5, 577.14. found 577.1.

reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 786 μmol, 196 μL | O1CCOCC1 | C4H8O2
reactant | (2R,4R)-5-(3′-chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic acid ethyl ester | 98.2 μmol, 50.0 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=CC2=C(N=NN2O)C=C1)O)=O | C26H25ClN4O5
reactant | 3,3,3-trifluoropropan-1-ol | 3.0 mmol, 336 mg | FC(CCO)(F)F | C3H5F3O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(3-hydroxy-3H-benzotriazole-5-carbonyl)amino]pentanoic Acid 3,3,3-Trifluoropropyl Ester | 18 mg | FC(CCOC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=CC2=C(N=NN2O)C=C1)O)=O)(F)F | C27H24ClF3N4O5
